US04169718
80.5 g of 2-(dimethylcarbamoylimino)-5-methylthio-1,3,4-thiadiazol-3-id, sodium salt, were suspended in 300 ml of acetonitrile and treated dropwise with stirring with 36.5 g of ethyl chloroformate at room temperature. The mixture was further stirred for 2 hours, treated with ice water, the precipitated substance separated by suction filtration, and recrystallized from acetonitrile. There is obtained 84.5 g (86.9% of theory) of 2-(dimethylcarbamoylimino)-5-methylthio-1,3,4-thiadiazolin-3-carboxylic acid ethyl ester of m. pt. 129° C.

reactant | 2-(dimethylcarbamoylimino)-5-methylthio-1,3,4-thiadiazol-3-id | 80.5 g | CN(C(=O)N=C1SC(=N[N-]1)SC)C
reactant | sodium | [Na] | Na
reactant | ethyl chloroformate | 36.5 g | ClC(=O)OCC | C3H5ClO2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-(dimethylcarbamoylimino)-5-methylthio-1,3,4-thiadiazolin-3-carboxylic acid ethyl ester | 84.5 g, 86.9% | C(C)OC(=O)N1C(SC(=N1)SC)=NC(N(C)C)=O | C9H14N4O3S2
